Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a pleasant ___ w/ intermediate-risk cytogenetics
and favorable risk AML (normal karyotype, FLT3-, NPM1+, IDH2+,
RAD21+, CEBPA-) in ___ remission after successful induction 7+3
now s/p C2D1 of HiDAC consolidation therapy on ___. His ___
cycle of HIDAC was complicated by relatively prolonged
neutropenia along with fever and subsequent ___ abscess,
fortunately now all resolved. C2 was complicated by morbilliform
eruption associated w/ cytarabine. 

Today he was in clinic feeling "fantastic." He was found to be
anemic and thrombocytopenic. He received 1U plts and 15 min into
his 1st unit PRBC, (received premeds w/ apap, benadryl, pepcid),
developed rigors and required demerol x 2 and apap. However
developed temp of 101.1 1hr. Transfusion reaction workup
completed and sent to blood bank. Received 2gm Cefepime. I spoke
w/ the RN who was there and she noted that aside from the 
rigors,
VSS, he appeared well and the "best he's looked."

On arrival to ___, pt noted he felt "like a million dollars." He
states he feels the "best he's felt," and requesting to go home
in the am. 
 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
___ INITIAL BM/BXAML
___ Consented to protocol ___ INDUCTION DAUNOrubicin  (90 mg/m2)  Cytarabine  (100
mg/m2) (RHP: +NPM1, +IDH2,+ RAD21)
___ D+14 BMBx ablated, 
___ D+26 remission, NPM1 negative
___ C1D1 HIDAC
--___ admitted for fever
--___ CT showed perianal abscess, drained, improved with
antibiotics
--___ C2D1 HIDAC

PAST MEDICAL HISTORY (per OMR):
AS ABOVE
 
Social History:
___
Family History:
Mother had lung cancer
Father had some type of metastatic cancer extensively involving
the bones
No history of any hematologic disorders including leukemia or
lymphoma
 
Physical Exam:
ADMISSION EXAM
=============================
VITAL SIGNS: 98.5 PO 101 / 62 77 18 100
General:  NAD, Resting in bed comfortably, appears well
HEENT:  MMM, no OP lesions, no cervical/supraclavicular
adenopathy
CV:  RR, NL S1S2 no S3S4 No MRG
PULM:  CTAB, No C/W/R, No respiratory distress
ABD:  BS+, soft, NTND, no palpable masses or HSM
LIMBS: WWP, no ___, no tremors
SKIN:  No rashes on the extremities
NEURO:  Grossly normal
 
DISCHARGE EXAM
=============================
Vital signs stable 
GEN: NAD  
HEENT: MMM. 
Cards: RR S1/S2 normal. no murmurs/gallops/rubs.  
Pulm: CTAB no crackles or wheezes  
Abd: BS+, soft, NT, NABS
Extremities: WWP, no edema.   
Skin: no rashes or bruising  
Neuro: AOx3, CNs II-XII intact.
 
Pertinent Results:
ADMISSION LABS
===========================
___ 09:15AM BLOOD WBC-1.0* RBC-2.06* Hgb-6.7* Hct-19.7* 
MCV-96 MCH-32.5* MCHC-34.0 RDW-17.2* RDWSD-59.7* Plt Ct-7*#
___ 09:15AM BLOOD Neuts-27* Bands-2 Lymphs-56* Monos-9 
Eos-5 Baso-0 Atyps-1* ___ Myelos-0 AbsNeut-0.29* 
AbsLymp-0.57* AbsMono-0.09* AbsEos-0.05 AbsBaso-0.00*
___ 09:15AM BLOOD Hypochr-1+* Anisocy-1+* Poiklo-1+* 
Macrocy-OCCASIONAL Microcy-OCCASIONAL Polychr-NORMAL 
Ovalocy-OCCASIONAL Schisto-OCCASIONAL Tear Dr-1+* Ellipto-1+*
___ 09:15AM BLOOD Plt Smr-RARE* Plt Ct-7*#
___ 01:10PM BLOOD LD(LDH)-133 TotBili-0.5 DirBili-<0.2 
IndBili-0.5
___ 01:10PM BLOOD Hapto-205*
___ 04:35PM URINE Color-Straw Appear-Clear Sp ___
___ 03:23PM URINE Color-Yellow Appear-Clear Sp ___
___ 04:35PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 03:23PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
 
PERTINENT LABS
===========================
___ 10:45AM BLOOD WBC-6.2 RBC-2.28* Hgb-7.4* Hct-21.2* 
MCV-93 MCH-32.5* MCHC-34.9 RDW-17.6* RDWSD-59.8* Plt Ct-11*
___ 12:00AM BLOOD Neuts-40 Bands-7* ___ Monos-22* 
Eos-3 Baso-0 ___ Myelos-0 AbsNeut-2.07 AbsLymp-1.23 
AbsMono-0.97* AbsEos-0.13 AbsBaso-0.00*
___ 12:00AM BLOOD ___ PTT-27.1 ___
___ 12:00AM BLOOD Glucose-88 UreaN-8 Creat-0.7 Na-142 K-3.8 
Cl-103 HCO3-25 AnGap-14
___ 12:00AM BLOOD ALT-13 AST-11 LD(LDH)-117 AlkPhos-57 
TotBili-0.3
___ 01:10PM BLOOD LD(LDH)-133 TotBili-0.5 DirBili-<0.2 
IndBili-0.5
___ 01:10PM BLOOD Hapto-205*
___ 12:00AM BLOOD Hapto-180
___ 12:00AM BLOOD Hapto-160
 
DISCHARGE LABS
===========================
___ 10:45AM BLOOD WBC-6.2 RBC-2.28* Hgb-7.4* Hct-21.2* 
MCV-93 MCH-32.5* MCHC-34.9 RDW-17.6* RDWSD-59.8* Plt Ct-11*
___ 12:00AM BLOOD Neuts-40 Bands-7* ___ Monos-22* 
Eos-3 Baso-0 ___ Myelos-0 AbsNeut-2.07 AbsLymp-1.23 
AbsMono-0.97* AbsEos-0.13 AbsBaso-0.00*
___ 12:00AM BLOOD Hypochr-NORMAL Anisocy-NORMAL Poiklo-1+* 
Macrocy-1+* Microcy-NORMAL Polychr-NORMAL Ovalocy-1+*
___ 10:45AM BLOOD Plt Ct-11*
___ 12:00AM BLOOD Plt Smr-RARE* Plt Ct-10*
___ 12:00AM BLOOD Glucose-88 UreaN-8 Creat-0.7 Na-142 K-3.8 
Cl-103 HCO3-25 AnGap-14
___ 12:00AM BLOOD LD(LDH)-183
___ 12:00AM BLOOD ALT-13 AST-11 LD(LDH)-117 AlkPhos-57 
TotBili-0.3
___ 12:00AM BLOOD Calcium-8.8 Phos-3.4 Mg-1.6
___ 12:00AM BLOOD Hapto-160
 
MICRO
===========================
___ BLOOD CULTURE Blood Culture, Routine-PENDING 

___ BLOOD CULTURE Blood Culture, Routine-PENDING 

UCx ___ NO GROWTH
 
PERTINENT STUDIES
===========================
CXR (___)
Heart size and mediastinum are stable.  Central venous line tip 
is at the 
level of lower SVC.  Lungs are essentially clear.  No pleural 
effusion or 
pneumothorax is seen. 
 
Brief Hospital Course:
___ man with PMHx notable for acute myeloid leukemia 
with intermediate-risk cytogenetics and favorable risk (normal 
karyotype, FLT3-, NPM1+, IDH2+, RAD21+, CEBPA-) in ___ remission 
after successful induction 7+3 now s/p C2D16 of HiDAC 
consolidation therapy, admitted for neutropenic fever in setting 
of pRBC and platelet transfusion in clinic.  

# NEUTROPENIC FEVER: 
Admitted for neutropenic fever to 101.1 that occurred during 
pRBC and platelet transfusion in clinic despite having received 
acetaminophen, diphenhydramine, and Pepcid. Started on broad 
spectrum antibiotics with cefepime. Was otherwise feeling 
completely well without localizing signs/symptoms of infection. 
Negative blood and urine cultures, CXR clear, port site without 
erythema or purulence, history of gluteal abscess however this 
has resolved. Workup of transfusion reaction notable for 
normal/negative LDH, haptoglobin, direct Coombs test, and HLA 
antibody screen. Most likely represented febrile non-hemolytic 
reaction. Neutrophil counts recovered on D17 of HiDAC. Received 
additional 1u platelets prior to discharge without reaction.

# ACUTE MYELOLOID LEUKEMIA:
# PANCYTOPENIA
Notable for intermediate-risk cytogenetics and favorable risk 
(normal karyotype, FLT3-, NPM1+, IDH2+, RAD21+, CEBPA-) in ___ 
remission after successful induction 7+3 now s/p C2D1 of HiDAC 
consolidation therapy on ___. Pancytopenia expected s/p HiDAC. 
Previously on home Cipro/Flagyl prophylaxis which was stopped at 
discharge given resolution of neutropenia. Continued home 
voriconazole prophylaxis. Received 1 additional unit platelets 
prior to discharge without febrile reaction.

TRANSITIONAL ISSUES
===============================

 [ ] Recommend repeat CBC/diff to ensure maintaining WBC and 
platelet count.

 [ ] Discontinued home Cipro/Flagyl prophylaxis given rapid 
resolution of neutropenia and absence of fever.

CODE: full (presumed)
CONTACT: ___ (ex-wife: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5-1 mg PO Q8H:PRN 
anxiety/nausea/vomiting/insomnia 
2. Vitamin D ___ UNIT PO DAILY 
3. Ciprofloxacin HCl 500 mg PO Q12H 
4. Voriconazole 200 mg PO Q12H 
5. MetroNIDAZOLE 500 mg PO TID 

 
Discharge Medications:
1.  LORazepam 0.5-1 mg PO Q8H:PRN 
anxiety/nausea/vomiting/insomnia  
2.  Vitamin D ___ UNIT PO DAILY  
3.  Voriconazole 200 mg PO Q12H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Neutropenic fever (most likely due to non-hemolytic blood 
transfusion reaction)

SECONDARY DIAGNOSES:
Acute myeloid leukemia
Pan-cytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___.

Why you were in the hospital:
 - fever that occurred during a blood transfusion in the clinic
 - low white blood cell count (neutropenia)

What was done for you in the hospital:
 - we gave you IV antibiotics in case there was a serious 
infection
 - we monitored your fever and white blood cell counts
 - we obtained blood tests and imaging to determine if there was 
any evidence of infection

What you should do when you get home:
 - continue to monitor for any fevers/chills, and if so please 
call your doctor or go to the emergency room
 - attend your follow up appointments as scheduled in the 
discharge papers
 - take your medications as prescribed in the discharge papers

We wish you the best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___